US08614206B2
A solution of (Z)-tert-Butyl 3-oxo-2,3,6,7-tetrahydro-1H-azepine-1-carboxylate (2 g, 9.48 mmol), (4-methoxyphenyl)methanol (6.55 g, 47.4 mmol) and DBU (0.14 mL, 0.95 mmol) in acetonitrile (10 mL) was heated at 60° C. for 23 hr. The solvents were removed under reduced pressure. Purification by silica gel column chromatography (0-40% EtOAc/isohexane) gave tert-butyl 5-(4-methoxybenzyloxy)-3-oxoazepane-1-carboxylate as a clear oil (1.99 g). To a solution of this oil (1.33 g, 3.8 mmol) in water/THF (20 mL/20 mL) was added NaBH4 and the mixture was stirred for 1.5 h. The THF was removed under reduced pressure and the aqueous phase was extracted with EtOAc (3×20 mL). The combined organic layers were concentrated under reduced pressure. Purification via silica gel column chromatography (0-60% EtOAc/isohexane) gave tert-butyl 3-hydroxy-5-(4-methoxybenzyloxy)azepane-1-carboxylate (1.30 g) as a clear oil. This oil (1.15 g, 3.28 mmol) was dissolved in DCM (20 mL) and deoxo-Fluor® was added (50% in THF, 5.93 mL, 16.4 mmol). The mixture was stirred at room temperature for 18 hr, diluted with DCM (30 mL), cooled in an ice/water bath and quenched by dropwise addition of saturated aqueous NaHCO3 solution (50 mL). The resulting mixture was stirred for 10 min. The organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-30% EtOAc/isohexane) gave tert-butyl 3-fluoro-5-(4-methoxybenzyloxy)azepane-1-carboxylate (746 mg, 39% over three steps) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.36-7.30 (m, 2H), 6.95 (d, J=8.2 Hz, 2H), 5.19-4.64 (m, 1H), 4.65-4.43 (m, 2H), 4.06-3.20 (m, 8H), 2.35-1.67 (m, 4H), 1.55-1.50 (m, 9H).

reactant | (Z)-tert-Butyl 3-oxo-2,3,6,7-tetrahydro-1H-azepine-1-carboxylate | 9.48 mmol, 2 g | O=C\1CN(CC\C=C1)C(=O)OC(C)(C)C | C11H17NO3
reactant | (4-methoxyphenyl)methanol | 47.4 mmol, 6.55 g | COC1=CC=C(C=C1)CO | C8H10O2
reactant | DBU | 0.95 mmol, 0.14 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl 5-(4-methoxybenzyloxy)-3-oxoazepane-1-carboxylate | 1.99 g | COC1=CC=C(COC2CC(CN(CC2)C(=O)OC(C)(C)C)=O)C=C1 | C19H27NO5
